US06410781B1
4-Bromopyridine hydrochloride (10.05 g, 51.8 mmol) was treated with potassium carbonate (7.15 g, 51.8 mmol) in water (50 mL), and the resulting solution was saturated with sodium chloride. The 4-bromopyridine free base was extracted with diethyl ether, and the solution was stored under N2 over 3 angstrom molecular sieves for 1 h. The 4-bromopyridine solution was slowly transferred by cannula to a stirred solution of 2.5 M butyllithium in hexane (21.2 mL, 53 mmol) in anhydrous diethyl ether (100 mL), maintained at −78° C. under N2. The reaction mixture was stirred for 30 min., and then a solution of cis-1,2-cyclohexanedicarboxylic anhydride (8.33 g, 54 mmol) in anhydrous tetrahydrofuran (150 mL) was added by cannula. The reaction mixture was stirred at −78° C. for 1 h and then allowed to warm to 20° C. The reaction mixture was quenched by addition of water (200 mL), and the aqueous layer was separated and acidified to pH=4 by addition of 6 M hydrochloric acid. The aqueous layer was saturated with sodium chloride and extracted with a (1:1) mixture of ethyl acetate and tetrahydrofuran (400 mL). The organic layer was washed with sat. NaCl, dried over MgSO4, filtered, and evaporated to give cis-2-(4-pyridylcarbonyl)cyclohexanecarboxylic acid, as a solid, which was used immediately in the next step.

reactant | 4-Bromopyridine hydrochloride | 51.8 mmol, 10.05 g | Cl.BrC1=CC=NC=C1
reactant | potassium carbonate | 51.8 mmol, 7.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 53 mmol, 21.2 mL | CCCCCC | C6H14
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 54 mmol, 8.33 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
solvent | water | 50 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | cis-2-(4-pyridylcarbonyl)cyclohexanecarboxylic acid | N1=CC=C(C=C1)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C13H15NO3
